US07449477B2
[3-(4-Nitro-phenyl)-propyl]-[2-(2,2,2-trifluoro-acetylamino)-ethyl]carbamic acid tert-butyl ester
Add N1-[3-(4-Nitro-phenyl)-propyl]-ethane-1,2-diamine (73 g, 221 mmol) and anhydrous tetrahydrofuran (750 mL) to a 2 L flask and cool to 0° C. Add ethyl trifluoroacetate (28 mL, 234 mmol) dropwise over 15 min via addition funnel. Stir for 30 min before adding di-tert-butyldicarbonate (75 g, 340 mmol) and stir for another 30 min. Allow the reaction to warm to room temperature. Add water and methyl tert-butylmethyl ether and dichloromethane. Separate the layers and add brine to the aqueous layer and extract with dichloromethane. Wash the organic layer with brine, dry over MgSO4, filter and concentrate under reduced pressure to obtain an oily residue. Purify the residue by flash chromatography (eluting CH2Cl2→4% MeOH/CH2Cl2) to obtain the title compound. 1H NMR (CDCl3, 500.0 MHz): δ 8.14 (d, 2H, J=8.5 Hz), 7.32 (d, 2H, J=8.5 Hz), 3.42-3.50 (m, 4H), 3.20-3.25 (m, 2H), 2.69 (t, 2H, J=7.5 Hz), 1.87 (p, 2H, J=7.5 Hz), 1.41 (s, 9H).

reactant | N1-[3-(4-Nitro-phenyl)-propyl]-ethane-1,2-diamine | 221 mmol, 73 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCNCCN | C11H17N3O2
reactant | ethyl trifluoroacetate | 234 mmol, 28 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | di-tert-butyldicarbonate | 340 mmol, 75 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl tert-butylmethyl ether | C(C)(C)(C)COC | C6H14O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | tetrahydrofuran | 750 mL | O1CCCC1 | C4H8O
product | [3-(4-Nitro-phenyl)-propyl]-[2-(2,2,2-trifluoro-acetylamino)-ethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCNC(C(F)(F)F)=O)CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C18H24F3N3O5
